US04138581
Following a procedure similar to that described above in Example 30A, when 3-hydroxy-4-(p-toluyloxy)phenyl tert-butylaminomethyl ketone is interacted with nicotinoyl chloride, there is obtained 3-(nicotinoyloxy)-4-(p-toluyloxy)phenyl tert-butylaminomethyl ketone; and by interaction of this base with hydrochloric acid there is obtained the hydrochloride salt. When this hydrochloride is catalytically hydrogenated, using the procedure described above in Example 30B, there is obtained 3- nicotinoyloxy-4-(p-toluyloxy)-alpha-(tert-butylaminomethyl) benzyl alcohol hydrochloride.

reactant | 3-hydroxy-4-(p-toluyloxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC1=CC=C(C=C1)C)O | C19H23NO3
reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
product | 3-(nicotinoyloxy)-4-(p-toluyloxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC1=CC=C(C=C1)C)OC(C1=CN=CC=C1)=O | C25H26N2O4
